US07208494B2
f) 5-Methyl-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester
To a solution of 1.15 g (5.6 mmol) 5-methyl-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester in 20 mL dichloromethane were added 1.47 g (6.76 mmol) di-tert-butyl dicarbonate and 68.8 mg (0.56 mmol) 4-dimethylaminopyridine. After 2 h the solvent was evaporated and the residue purified by column chromatography over silica gel (0.030–0.063 mm) with ethyl acetate:n-hexane (1:4) as eluant to give the product as a colourless oil (86.4%).

reactant | 5-methyl-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester | 5.6 mmol, 1.15 g | C(C)OC(=O)C1=CC=2C(=NC=C(C2)C)N1 | C11H12N2O2
reactant | di-tert-butyl dicarbonate | 6.76 mmol, 1.47 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.56 mmol, 68.8 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-Methyl-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 86.4% | CCOC(=O)C1=CC=2C(=NC=C(C2)C)N1C(=O)OC(C)(C)C | C16H20N2O4
